US07612060B2
Step (iv): Synthesis of (R)-4-(3,4-dichlorobenzenesulfonyl)-3-((1-((R)-1-(4-(piperidin-1-ylmethyl)phenyl)ethyl)-1H-1,2,3-triazol-4-yl)methyl)-3.4-dihydropyrazin-2(1H)-one (70)
To a solution of 4-((R)-1-(4-(((R)-1-(3,4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzaldehyde (0.150 g, 0.288 mmol) and piperidine (0.10 mL, 1.01 mmol) in 1,2-dichloroethane (10 mL) was added NaBH(OAc)3 (0.126 g, 0.594 mmol). After 18 h, the solution was diluted with 60 mL EtOAc and washed with 5% NaHCO3 (60 mL×2), brine (60 mL×2), dried over Na2SO4 and concentrated under reduced pressure. The crude product was chromatographed on SiO2 (100% CH2Cl2 to 5% 2N methanolic NH3 in CH2Cl2) to yield the title compound.

reactant | 4-((R)-1-(4-(((R)-1-(3,4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzaldehyde | 0.288 mmol, 0.150 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@H](C)C1=CC=C(C=O)C=C1 | C22H19Cl2N5O4S
reactant | piperidine | 1.01 mmol, 0.10 mL | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | 0.594 mmol, 0.126 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | (R)-4-(3,4-dichlorobenzenesulfonyl)-3-((1-((R)-1-(4-(piperidin-1-ylmethyl)phenyl)ethyl)-1H-1,2,3-triazol-4-yl)methyl)-3.4-dihydropyrazin-2(1H)-one | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@H](C)C1=CC=C(C=C1)CN1CCCCC1 | C27H30Cl2N6O3S
